US09315495B2
The compound was synthesized as in Example 3.1, using 5-bromo-2-formylbenzofuran (500 mg, 2.22 mmol) in place of 5-bromo-2-formylfuran and potassium butyltrifluoroborate (546 mg, 3.33 mmol) in place of hexylboronic acid to give 5-butyl-2-formylbenzofuran (402 mg, 90%). Used without further characterization.

reactant | 5-bromo-2-formylbenzofuran | 2.22 mmol, 500 mg | BrC=1C=CC2=C(C=C(O2)C=O)C1 | C9H5BrO2
reactant | potassium butyltrifluoroborate | 3.33 mmol, 546 mg | C(CCC)[B-](F)(F)F.[K+]
product | 5-butyl-2-formylbenzofuran | 402 mg, 90% | C(CCC)C=1C=CC2=C(C=C(O2)C=O)C1 | C13H14O2
